US08067457B2
rel-N-(2-{[(3R,4R)-4-isobutoxy-1-(tetrahydro-2H-pyran-4-yl)pyrrolidin-3-yl]amino}-2-oxoethyl)-3-(trifluoromethyl)benzamide (88)
To a solution of rel-N-(2-{[(3R,4R)-4-[(2-methylprop-2-en-1-yl)oxy]-1-(tetrahydro-2H-pyran-4-yl)pyrrolidin-3-yl]amino}-2-oxoethyl)-3-(trifluoromethyl)benzamide in methanol (400 μL) was added and Palladium (10%) on Carbon (50 mg) the was purged with hydrogen gas for two minutes; the reaction was then subjected to 1 atmosphere of hydrogen gas overnight. The flask was purged with Argon; the mixture was filtered, then purified by preparative HPLC to afford the title compound as a white solid. 1H-NMR (MeOD) δ: 0.893 (d, J=1.63 Hz, 3H), 0.915 (d, J=1.63 Hz, 3H), 1.51 (m, 2H), 1.77-1.87 (m, 3H), 2.44 (m, 1H), 2.64 (m, 1H), 2.71 (m, 1H), 3.10 (m, 2H), 3.21 (m, 1H), 3.38 (m, 2H), 3.87 (m, 1H), 3.95 (m, 3H), 4.04 (s, 2H), 4.29 (m, 1H), 7.70 (t, J=7.7 Hz, 1H), 7.87 (d, J=7.7 Hz, 1H), 8.15 (d, J=7.7 Hz, 1H), 8.22 (s, 1H) MS m/z: 472 (M+1).

reactant | rel-N-(2-{[(3R,4R)-4-[(2-methylprop-2-en-1-yl)oxy]-1-(tetrahydro-2H-pyran-4-yl)pyrrolidin-3-yl]amino}-2-oxoethyl)-3-(trifluoromethyl)benzamide | CC(CO[C@H]1[C@@H](CN(C1)C1CCOCC1)NC(CNC(C1=CC(=CC=C1)C(F)(F)F)=O)=O)=C | C23H30F3N3O4
solvent | methanol | 400 μL | CO | CH4O
product | rel-N-(2-{[(3R,4R)-4-isobutoxy-1-(tetrahydro-2H-pyran-4-yl)pyrrolidin-3-yl]amino}-2-oxoethyl)-3-(trifluoromethyl)benzamide | C(C(C)C)O[C@H]1[C@@H](CN(C1)C1CCOCC1)NC(CNC(C1=CC(=CC=C1)C(F)(F)F)=O)=O | C23H32F3N3O4
